Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Upper extremity wounds
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with pmh of IVDU presented to ___ ED with bilateral arm 
wounds and fever. 

Patient has a long standing history of heroin and crack cocaine. 
He has had difficulty finding veins recently and has been 
injecting sub-Q. Has since developed wounds in his ___ arms and 
has been injecting straight into the wounds, occasionally with 
pustular drainage coming out. The wounds have been present for 
at least 1 month. He developed fevers 1 week ago and noticed 
drainage in the last day. Denied any other new symptoms such as 
chest pain, SOB or lesions elsewhere on his body. His last 
heroin use was yesterday. 

In the ED, initial VS were 97.8 91 153/85 18 100% RA.
Labs showed Na 131, CRP 19.8 and lactate 1.5.
Received 1g IV vancomycin and IV dilaudid. 
Transfer VS were 98 136/73 16 95% RA. 
 
Decision was made to admit to medicine for further management. 
On arrival to the floor, patient was in no acute distress and 
confirmed the above history. 

ROS was positive as above, and otherwise negative in other 
reviewed systems, though patient was unforthcoming with 
information.
 
Past Medical History:
IV drug abuse
 
Social History:
___
Family History:
Mother - ___, PSA
 
Physical Exam:
Admission/Discharge exam
VS -  Tc 98.8 128/80 86 20 93% RA
GENERAL: Adult male in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Bilateral lesions over biceps muscles, 
crusted and draining purulent material, no obvious fluctuance or 
erythema. 
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact 

 
Pertinent Results:
Admission labs
___ 06:00AM BLOOD WBC-7.6 RBC-5.65 Hgb-13.7 Hct-42.4 
MCV-75* MCH-24.2* MCHC-32.3 RDW-15.4 RDWSD-41.0 Plt ___
___ 06:00AM BLOOD Neuts-56.6 ___ Monos-7.1 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-4.31 AbsLymp-2.60 AbsMono-0.54 
AbsEos-0.10 AbsBaso-0.03
___ 06:00AM BLOOD Glucose-89 UreaN-9 Creat-1.0 Na-131* 
K-5.2* Cl-98 HCO3-22 AnGap-16
___ 06:00AM BLOOD CRP-19.8*
___ 06:38AM BLOOD Lactate-1.5

Discharge labs
___ 03:21PM BLOOD Glucose-103* UreaN-8 Creat-1.0 Na-134 
K-3.8 Cl-101 HCO3-25 AnGap-12

Micro
Blood cultures pending

Imaging
None
 
Brief Hospital Course:
Summary
Patient was admitted to ___ on ___ with upper extremity 
wounds and fevers, concerning for infection.

Acute issues
# Would infection
Patient presented with bilateral upper ext wounds secondary to 
IVDU. Obvious purulent drainage on exam. No symptoms or signs to 
currently suggest endocarditis. Blood cultures were drawn and 
pending at time of elopement. An upper ext US to eval for 
abscess was planned but could not be performed prior to patient 
leaving. He received 1 dose of vancomycin in the ED. 

# Heroin use, IVDU
# Tobacco use
Patient active IVD user. Was not in any distress to suggest 
acute withdrawal. Started supportive care for opioid withdrawal 
including loperamide, trazadone, zofran and hydroxyzine prn. 
Nicotine patch and gum for tobacco withdrawal. 

# Elopement
Was notified at 1830 on ___ that the patient had left the 
medicine floor. His whereabouts were unknown. Security at ___ 
was notified, as was the attending physician (Dr. ___ 
___, as was the clinical nurse supervisor. A message was 
left at the listed phone number of the patient, asking him to 
call back. The ___ Police Department was also notified 
(patient has a residence in ___. During his hospital 
stay, the patient had full capacity for decision making. There 
is no reason to believe at this time that he lacks capacity. The 
patient is this considered to have eloped. Should he return to 
___ he will need to be re-evaluated in the Emergency 
Department.

CODE: Full (confirmed)  
EMERGENCY CONTACT: ___ ___ 
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Wound infection
 
Discharge Condition:
Clear and Coherent, independent and ambulatory. 
 
Discharge Instructions:
Patient eloped. 
 
Followup Instructions:
___